US07109218B2
4-[4-(Chloromethyl)-1,3-thiazol-2-yl]morpholine
11.51 g (78.76 mmol) of 4-morpholinecarbothioamide and 10.00 g (78.76 mmol) of dichloroacetone in 100 ml of ethanol are heated under reflux for one hour. The colourless solid which precipitates from the pink solution is, after cooling, filtered off with suction and washed twice with ethanol. This gives 12.96 g (75% of theory) of product.

reactant | 4-morpholinecarbothioamide | 78.76 mmol, 11.51 g | N1(CCOCC1)C(N)=S | C5H10N2OS
reactant | dichloroacetone | 78.76 mmol, 10.00 g | ClC(C(C)=O)Cl | C3H4Cl2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 4-[4-(Chloromethyl)-1,3-thiazol-2-yl]morpholine | ClCC=1N=C(SC1)N1CCOCC1 | C8H11ClN2OS
